US05041673
Trans-2-amino-1,2,3,4-tetrahydro-3-phenanthrenol, hydrochloride
A solution of (±)-(2R,3S,4R)-2-amino-4-chloro-1,2,3,4-tetrahydro-3-phenanthrenol hydrochloride (396 mg) in methanol (50 ml) was hydrogenated over 10% palladium on charcoal (109 mg) under atmospheric pressure at room temperature. When the theoretical amount of hydrogen was absorbed, the catalyst was filtered and the solvent evaporated under vacuum to give the title compound as a solid (315 mg).

reactant | (±)-(2R,3S,4R)-2-amino-4-chloro-1,2,3,4-tetrahydro-3-phenanthrenol hydrochloride | 396 mg | Cl.N[C@@H]1CC=2C=CC3=CC=CC=C3C2[C@H]([C@H]1O)Cl
solvent | methanol | 50 ml | CO | CH4O
catalyst | palladium on charcoal | 109 mg | [Pd] | Pd
product | Trans-2-amino-1,2,3,4-tetrahydro-3-phenanthrenol, hydrochloride | 315 mg | Cl.N[C@@H]1CC=2C=CC3=CC=CC=C3C2C[C@H]1O | InChI=1S/C14H15NO.ClH/c15-13-7-10-6-5-9-3-1-2-4-11(9)12(10)8-14(13)16;/h1-6,13-14,16H,7-8,15H2;1H/t13-,14-;/m1./s1
